US05037867
Di(2-benzyl-3-phenyl-isoxazolidin-5-yl)Sulfone
A solution of 2.11 g (10 mmol) of N-benzylidenebenzylamine N-oxide and 1.09 g (5 mmol) of divinyl sulfone in 30 ml of toluene under a nitrogen atmosphere is heated at reflux temperature for 8 hours. The solvent is removed under reduced pressure to give 4.1 g of crude product which is then purified by preparative HPLC (Waters Prep 500A, silica gel, 3:1 heptane:ethyl acetate eluent) to give 0.70 g (26% yield) of a yellow amorphous solid.

reactant | N-benzylidenebenzylamine N-oxide | 10 mmol, 2.11 g | C(C1=CC=CC=C1)=[N+](CC1=CC=CC=C1)[O-] | C14H13NO
reactant | divinyl sulfone | 5 mmol, 1.09 g | C(=C)S(=O)(=O)C=C | C4H6O2S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Di(2-benzyl-3-phenyl-isoxazolidin-5-yl)Sulfone | 0.70 g, 26% yield | C(C1=CC=CC=C1)N1OC(CC1C1=CC=CC=C1)S(=O)(=O)C1CC(N(O1)CC1=CC=CC=C1)C1=CC=CC=C1 | C32H32N2O4S
